US06700023B1
B. Preparation of ethyl 2,2,5,5,5-pentafluoropentanoate
The compound ethyl 4-iodo-2,2,5,5,5-pentafluoropentanoate prepared from above experiment (86.5 g, 0.25 mol) was added dropwise into a well-stirred tributyltin hydride liquid (75.5 g, 0.26 mol). The reaction temperature was controlled at below 30° C. with external cooling during the process. After addition was complete, the mixture was stirred at 50° C. for 2 hr. The product was isolated by distillation, 42.0 g (76.4% yield) of product was obtained as a clear, colorless liquid, bp. 38-39° C./10 mm Hg. 1H NMR (500 MHz, CDCl3): δ 4.35 (q, J=7 Hz, 2H), 2.35 (m, 4H), 1.38 (t, J=7 Hz, 3H); 19F NMR (282.75 MHz, CDCl3): −67.3 (m, 3F), −107.5 (m, 2F).

reactant | ethyl 4-iodo-2,2,5,5,5-pentafluoropentanoate | IC(CC(C(=O)OCC)(F)F)C(F)(F)F | C7H8F5IO2
reactant | tributyltin hydride | 0.26 mol, 75.5 g | C(CCC)[SnH](CCCC)CCCC
product | ethyl 2,2,5,5,5-pentafluoropentanoate | 42.0 g, 76.4% yield | FC(C(=O)OCC)(CCC(F)(F)F)F | C7H9F5O2
